US05686482
A 0.65 g portion of methyl 5-amino-2,4-dimethoxybenzoate was dissolved in a mixture solvent of 1.5 ml of water and 10 ml of acetone, and 1.3 ml of concentrated hydrochloric acid was added thereto, followed by dropwise addition of 0.23 g of sodium nitrite dissolved in 1 ml of water under ice-cooling and subsequent stirring for a while. Next, 0.35 g of cuprous chloride was added and the mixture was warmed up to room temperature. After completion of the reaction, insoluble matter was filtered and the resulting residue was mixed with water, extracted with ethyl acetate and then washed with water and saturated brine. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=500:1-40:1) to give 0.56 g of methyl 5-chloro-2,4-dimethoxybenzoate.

reactant | methyl 5-amino-2,4-dimethoxybenzoate | NC=1C(=CC(=C(C(=O)OC)C1)OC)OC | C10H13NO4
reactant | sodium nitrite | 0.23 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
solvent | water | 1.5 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
product | methyl 5-chloro-2,4-dimethoxybenzoate | 0.56 g | ClC=1C(=CC(=C(C(=O)OC)C1)OC)OC | C10H11ClO4
